US08633189B2
To a solution of 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (100 mg, 0.29 mmol) and NiCl2 (49 mg, 0.38 mmol) in methanol (1.0 mL) was added NaBH4 (14 mg, 0.38 mmol) portion-wise at 0° C. The reaction was stirred for 5 min then quenched with NaHCO3 and diluted with ethyl acetate. The reaction mixture was filtered through a pad of Celite and the layers separated. The aqueous layer was re-extracted with ethyl acetate and the combined organic extracts were dried over Na2SO4, filtered and concentrated. Silica gel chromatography (10% ethyl acetate/hexane) provided 5-amino-4-bromo-2-cyclopentylphenyl methyl carbonate (49 mg, 54% yield).

reactant | 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 0.29 mmol, 100 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
reactant | NaBH4 | 0.38 mmol, 14 mg | [BH4-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 1.0 mL | CO | CH4O
catalyst | NiCl2 | 0.38 mmol, 49 mg | Cl[Ni]Cl
product | 5-amino-4-bromo-2-cyclopentylphenyl methyl carbonate | 49 mg, 54% yield | C(OC1=C(C=C(C(=C1)N)Br)C1CCCC1)(OC)=O | C13H16BrNO3
